US04847254
(-) and (+)-5-hydroxy-2,3-dihydro-N,N-dipropyl-3-benzofuranmethylamine, hemioxalate (Lu 24-121 and Lu 24-122)
(+) and (-)-5-hydroxy-2,3-dihydro-N-methyl-N-propyl-3-benzofuranmethylamine, oxalate. M.P. 170°-171° C. (Lu 25-020) and (Lu 25-021)

reactant | (-)-5-hydroxy-2,3-dihydro-N-methyl-N-propyl-3-benzofuranmethylamine | OC1=CC2=C(OC(C2)CN(CCC)C)C=C1 | C13H19NO2
reactant | oxalate | C(C(=O)[O-])(=O)[O-]
product | (+)-5-hydroxy-2,3-dihydro-N,N-dipropyl-3-benzofuranmethylamine | OC1=CC2=C(OC(C2)CN(CCC)CCC)C=C1 | C15H23NO2
